US07253286B2
Methyl 4-(4-amino-3-chlorophenoxy)-7-(2-methoxyethoxy)-6-quinolinecarboxylate
Methyl 4-chloro-7-(2-methoxyethoxy)-6-quinolinecarboxylate (4.9 g), 4-amino-3-chlorophenol (2.0 g), sodiumhydride (550 mg) and dimethylformamide (20 ml) were stirred together at 100° C. for 2 hours. The mixture was returned to room temperature, water was added, and extraction was performed with ethyl acetate. Silica gel was added to the extract solution and the solvent was distilled off under reduced pressure. The silica gel was charged into a dry column packed with silica gel, and purification was performed by column chromatography (hexane-ethyl acetate=1:1, followed by ethyl acetate) to obtain 3.2 g of the target substance as a violet solid.

reactant | Methyl 4-chloro-7-(2-methoxyethoxy)-6-quinolinecarboxylate | 4.9 g | ClC1=CC=NC2=CC(=C(C=C12)C(=O)OC)OCCOC | C14H14ClNO4
reactant | 4-amino-3-chlorophenol | 2.0 g | NC1=C(C=C(C=C1)O)Cl | C6H6ClNO
reactant | sodiumhydride | 550 mg | [H-].[Na+]
reactant | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | Methyl 4-(4-amino-3-chlorophenoxy)-7-(2-methoxyethoxy)-6-quinolinecarboxylate | NC1=C(C=C(OC2=CC=NC3=CC(=C(C=C23)C(=O)OC)OCCOC)C=C1)Cl | C20H19ClN2O5
